US03974144
When an equivalent amount of the anil derivative of 4-methyl-6-methoxyisophthalaldehydic acid is substituted for the anil derivative of terephthalaldehydic acid in the procedure described in Example 2 above, there is obtained as the product 2-[4-(6-methyl-4-methoxy-3-carboxystyryl)phenyl]benzofuran.

reactant | 4-methyl-6-methoxyisophthalaldehydic acid | CC1=C(C=C(C(=O)O)C(=C1)OC)C=O | C10H10O4
reactant | terephthalaldehydic acid | C(C1=CC=C(C=O)C=C1)(=O)O | C8H6O3
product | 2-[4-(6-methyl-4-methoxy-3-carboxystyryl)phenyl]benzofuran | CC1=CC(=C(C=C1C=CC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2)C(=O)O)OC | C25H20O4
